US04175135
A solution of 20.0 g (0.0606 mol) of 2-(2',6'-dichloro-4'-nitrophenyl)-5,5-dimethyl-1,3-cyclohexanedione in 150 ml conc. NH4OH and 150 ml of ethanol was stirred at room temperature while passing H2S gas through the solution at such a rate that all of the H2S was absorbed. After the solution was saturated with H2S, it was refluxed 24 hours while continuously passing H2S slowly through the solution. The reaction mixture was cooled to room temperature, the precipitated sulfur removed by filtration, and the filtrate evaporated to dryness under reduced pressure. To the residue was added 300 ml of 0.25 N NaOH, and the solution filtered once more. The filtrate was cooled and acidified to pH=4 with 6 N HCl. A tan solid formed which was collected by filtration to give 11.2 g when dry. This material was washed with methylene chloride to give 8.2 g (45%) of 2-(2',6'-dichloro-4'-aminophenyl)-5,5-dimethyl-1, 3-cyclohexanedione as a white powder, m.p. 243° d.

reactant | 2-(2',6'-dichloro-4'-nitrophenyl)-5,5-dimethyl-1,3-cyclohexanedione | 0.0606 mol, 20.0 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)C1C(CC(CC1=O)(C)C)=O | C14H13Cl2NO4
reactant | H2S | S | H2S
solvent | NH4OH | 150 ml | [NH4+].[OH-]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(2',6'-dichloro-4'-aminophenyl)-5,5-dimethyl-1, 3-cyclohexanedione | 8.2 g, 45% | ClC1=C(C(=CC(=C1)N)Cl)C1C(CC(CC1=O)(C)C)=O | C14H15Cl2NO2
